US07601843B2
tert-Butyl 4-(mesitylamino)piperidine-1-carboxylate
After adding sodium triacetoxyborohydride (7.98 g, 37.6 mmol) to a solution of tert-butyl 4-oxopiperidine-1-carboxylate (5.00 g, 25.1 mmol), 2,4,6-trimethylaniline (3.56 g, 26.3 mmol) and acetic acid (2.9 mL, 50.2 mmol) in methylene chloride (50 mL), the mixture was stirred at room temperature for 3.5 hours. Saturated aqueous sodium hydrogencarbonate (150 mL) was added to the reaction mixture, which was then stirred until bubbling settled. The organic layer was separated and the aqueous layer was extracted with chloroform (100 mL). The organic layers were combined, washed with saturated brine (100 mL) and dried (Na2SO4), and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (50 g Merck Art. 9385, hexane:ethyl acetate=9: 1) to obtain the title compound as a brown oil (5.71 g) (71% yield).

reactant | sodium triacetoxyborohydride | 37.6 mmol, 7.98 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 25.1 mmol, 5.00 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 2,4,6-trimethylaniline | 26.3 mmol, 3.56 g | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | acetic acid | 50.2 mmol, 2.9 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | 150 mL | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-(mesitylamino)piperidine-1-carboxylate | 5.71 g, 71% yield | C1(=C(C(=CC(=C1)C)C)NC1CCN(CC1)C(=O)OC(C)(C)C)C | C19H30N2O2
